US09290490B2
trans-Ethyl 4-(5-bromothiazole-2-carbonyl)cyclohexanecarboxylate (150 mg, 0.433 mmol), sodium cyanoborohydride (63 mg, 1.00 mmol), ammonium acetate (83 mg, 1.08 mmol), THF (0.6 mL), and methanol (1.8 mL) were combined in a sealed vial and heated to a temperature of 80° C. for 16 hours. The mixture was cooled to 23° C. and subsequently transferred to a separatory funnel containing EtOAc. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over sodium sulfate, filtered and concentrated to afford crude trans-ethyl 4-(amino(5-bromothiazol-2-yl)methyl)cyclohexanecarboxylate, which was used directly in the subsequent synthetic transformation without purification. MS ESI calc'd. For C13H20BrN2O2S [M+H]+ 347, 349. found 347, 349.

reactant | trans-Ethyl 4-(5-bromothiazole-2-carbonyl)cyclohexanecarboxylate | 0.433 mmol, 150 mg | BrC1=CN=C(S1)C(=O)[C@@H]1CC[C@H](CC1)C(=O)OCC | C13H16BrNO3S
reactant | sodium cyanoborohydride | 1.00 mmol, 63 mg | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 1.08 mmol, 83 mg | C(C)(=O)[O-].[NH4+]
reactant | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | 1.8 mL | CO | CH4O
product | trans-ethyl 4-(amino(5-bromothiazol-2-yl)methyl)cyclohexanecarboxylate | NC([C@@H]1CC[C@H](CC1)C(=O)OCC)C=1SC(=CN1)Br | C13H19BrN2O2S
